US09416101B2
3-(chlorosulfonyl)benzoic acid (1.0 g, 4.53 mmol) was treated with 5-chloroindoline (2.08 g, 13.60 mmol) using method A to give 3-(5-chloroindolin-1-ylsulfonyl)benzoic acid as an off white solid. Yield: 720 mg (47%). 1H-NMR: 8.09 (d, J=8.5 Hz, 2H), 7.93 (d, J=8.5 Hz, 2H), 7.48-7.43 (m, 1H), 7.27-7.23 (m, 2H), 3.97 (t, J=8.5 Hz, 2H) 2.91 (t, J=8.5 Hz, 2H).

reactant | 3-(chlorosulfonyl)benzoic acid | 4.53 mmol, 1.0 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | 5-chloroindoline | 13.60 mmol, 2.08 g | ClC=1C=C2CCNC2=CC1 | C8H8ClN
product | 3-(5-chloroindolin-1-ylsulfonyl)benzoic acid | ClC=1C=C2CCN(C2=CC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C15H12ClNO4S
